US05312949
A thermometer, hydrogen chloride gas inlet tube, and reflux condenser were fitted to a stirrer-equipped 200 mL four-neck flask, and 80 g triisopropylsilane was then introduced into the flask. This was followed by the addition of 0.01 g platinum/divinyltetramethyldisiloxane complex and heating to 100° C. Hydrogen chloride gas was then introduced into the mixture. The introduction of hydrogen chloride gas was suspended after 4 hours. Vacuum distillation yielded 94 g triisopropylchlorosilane (purity≥99%). The triisopropylsilane yield was 97%.

reactant | hydrogen chloride | Cl | ClH
reactant | triisopropylsilane | 80 g | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
product | triisopropylchlorosilane | 94 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
